US07393851B2
Preparation of 1-{5-[4-(4-Fluoro-benzyl)-piperidine-1-carbonyl]-6-methoxy-1-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl}-2-pyrrolidin-1-yl-ethane-1,2-dione
To a solution of [4-(4-Fluoro-benzyl)-piperidin-1-yl]-(6-methoxy-1-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-methanone (100 mg, 0.26 mmol) in anhydrous CH2Cl2 (15 mL) was added oxalyl chloride (0.52 mL, 1.05 mmol, 2 M in CH2Cl2) at RT. The reaction mixture was stirred for 4 h. The reaction mixture was concentrated under reduced pressure. The residue was dried under vacuum for I h and dissolved in CH2Cl2 (15 mL). An excess amount of pyrrolidine (74 mg, 1.04 mmol) was added to the reaction mixture. After stirring for 1 h, the reaction mixture was treated with water. The organic layer was separated and washed with brine, dried and concentrated. The residue was purified by chromatography on silica gel eluting with CH2Cl2:MeOH (95:5) to give the desired product (70 mg) in 53% yield as a white solid. M+H+(507).

reactant | [4-(4-Fluoro-benzyl)-piperidin-1-yl]-(6-methoxy-1-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-methanone | 0.26 mmol, 100 mg | FC1=CC=C(CC2CCN(CC2)C(=O)C=2C=C3C(=NC2OC)N(C=C3)C)C=C1 | C22H24FN3O2
reactant | oxalyl chloride | 1.05 mmol, 2 M, 0.52 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyrrolidine | 1.04 mmol, 74 mg | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-{5-[4-(4-Fluoro-benzyl)-piperidine-1-carbonyl]-6-methoxy-1-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl}-2-pyrrolidin-1-yl-ethane-1,2-dione | 70 mg, 53% yield | FC1=CC=C(CC2CCN(CC2)C(=O)C=2C=C3C(=NC2OC)N(C=C3C(C(=O)N3CCCC3)=O)C)C=C1 | C28H31FN4O4
